US07253286B2
1-(4-Fluorophenyl)-3-[4-(6-formyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea
After adding 3 ml of chloroform and 50 mg of manganese dioxide to 18 mg of 1-(4-fluorophenyl)-3-[4-(6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea, the mixture was stirred overnight at room temperature. Tetrahydrofuran and ethyl acetate were added to the reaction system, and the mixture was filtered with celite and concentrated to dryness to obtain 16 mg of the title compound.

reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-(4-fluorophenyl)-3-[4-(6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea | 18 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)CO | C20H16FN5O3
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 50 mg | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Fluorophenyl)-3-[4-(6-formyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]urea | 16 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)C=O | C20H14FN5O3
